US07241906B2
ethyl 2-(2-phenyl-tetrahydrofuro[3,2-b]furan-3a-yl)acrylate
2-(5-phenyl-3-vinylidene-tetrahydrofuran-2-yl)ethanol (39 mg, 0.18 mmol) was dissolved in 2 mL of methanol, and then was filled with CO gas (1 atm), followed by addition of PdCl2 (2.4 mg, 0.014 mmol) and CuCl2 (73 mg, 0.54 mmol). The solution was stirred for 4 hours at room temperature. When the reaction was completed, H2O was added and the solution was stirred for 5 minutes. The mixture was diluted with ethyl acetate, washed with H2O and NaCl. Organic layer was separated and dried with anhydride MgSO4. Solvent was removed under reduced pressure, and the remnant was purified through silica gel tube chromatography (EtOAc:n-Hexane=1:25, v/v), thus providing products (47 mg, 91%)

reactant | 2-(5-phenyl-3-vinylidene-tetrahydrofuran-2-yl)ethanol | 0.18 mmol, 39 mg | C1(=CC=CC=C1)C1CC(C(O1)CCO)=C=C | C14H16O2
reactant | H2O | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 2 mL | CO | CH4O
catalyst | PdCl2 | 0.014 mmol, 2.4 mg | Cl[Pd]Cl
product | ethyl 2-(2-phenyl-tetrahydrofuro[3,2-b]furan-3a-yl)acrylate | C1(=CC=CC=C1)C1CC2(C(O1)CCO2)C(C(=O)OCC)=C | C17H20O4
